US05990133
4-(3-Nitrophenyl)-2-(3-pyridyl)-thiazole, hydrobromide salt
A mixture of 2-bromo-3'-nitroacetophenone (5 g, 20 mmol) and thionicotinamide (2.76 g, 20 mmol) in ethanol (25 ml) was heated to reflux for 1 h, during which time extensive precipitation occurred. Filtration and drying afforded the product as a yellow solid (6.7 g, 92%).

reactant | 2-bromo-3'-nitroacetophenone | 20 mmol, 5 g | BrCC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | thionicotinamide | 20 mmol, 2.76 g | C(C1=CN=CC=C1)(=S)N | C6H6N2S
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-(3-Nitrophenyl)-2-(3-pyridyl)-thiazole, hydrobromide salt | 6.7 g, 92% | Br.[N+](=O)([O-])C=1C=C(C=CC1)C=1N=C(SC1)C=1C=NC=CC1 | InChI=1S/C14H9N3O2S.BrH/c18-17(19)12-5-1-3-10(7-12)13-9-20-14(16-13)11-4-2-6-15-8-11;/h1-9H;1H
